US06140332
Step 14.3: 4-(3-Chloro-anilino)-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine
A suspension of 1.251 g (5.45 mmol) of 4-chloro-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine and 1.15 ml (10.9 mmol) of 3-chloro-aniline in 20 ml of n-butanol and 0.5 ml of DMPU is heated at boiling for 2 hours. The reaction mixture is cooled and filtered. Stirring of the residue in hot THF/methanol yields the title compound; m.p. 285-286° C.; FAB-MS: (M+H)+ =321.

reactant | 4-chloro-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine | 5.45 mmol, 1.251 g | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=CC=C2 | C12H8ClN3
reactant | 3-chloro-aniline | 10.9 mmol, 1.15 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
solvent | DMPU | 0.5 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 4-(3-Chloro-anilino)-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C3=CC=CC=C3)C=CC1 | C18H13ClN4
